### PR TITLE
refactor: Weyl fermions

### PR DESCRIPTION
**Pull request by jstoobysmith**
Refactoring Weyl fermions. All of the changes with content take place in ../Weyl/Basic.lean (and one or two changes in ../Weyl/Module.lean). Everything downstream of that is just fixing what broke. 

Idea here is to improve the naming around Weyl fermions, and to improve the structure of the API.

### CODE REVIEW

File: Physlib/Relativity/Tensors/ComplexTensor/Metrics/Basic.lean [hunk 1]
```diff
@@ -183,30 +183,30 @@ lemma contrMetric_eq_complexContrBasisFin4 : η =
...
 
 open Fermion in
-lemma dualRightMetric_eq_dualRightBasis : εR' =
-    fromPairT (dualRightBasis 0 ⊗ₜ[ℂ] dualRightBasis 1)
-    - fromPairT (dualRightBasis 1 ⊗ₜ[ℂ] dualRightBasis 0) := by
+lemma dualRightMetric_eq_DualRightHandedWeyl.basis : εR' =
+    fromPairT (DualRightHandedWeyl.basis 0 ⊗ₜ[ℂ] DualRightHandedWeyl.basis 1)
+    - fromPairT (DualRightHandedWeyl.basis 1 ⊗ₜ[ℂ] DualRightHandedWeyl.basis 0) := by
   rw [dualRightMetric_eq_fromPairT, dualRightMetricVal_expand_tmul]
   simp
```
Comment (nateabr) [inline Physlib/Relativity/Tensors/ComplexTensor/Metrics/Basic.lean:212]: A little unsure about this but the names for the lemma's you've provided above, wont having the declaration as you've written with a dot (eg. `dualRightMetric_eq_DualRightHandedWeyl.basis` ) automatically register the prefix as namespace within this environment?

Was this your intention? Might be better to use an underscore if not?

File: Physlib/Relativity/Tensors/ComplexTensor/Units/Basic.lean [hunk 2]
```diff
@@ -177,26 +177,26 @@ lemma contrCoUnit_eq_complexContrBasisFin4_complexCoBasisFin4 : δ =
...
   rw [dualRightRightUnit_eq_fromPairT, dualRightRightUnitVal_expand_tmul]
   rfl
 
 open Fermion in
-lemma rightDualRightUnit_eq_rightBasis_dualRightBasis : δR =
-    ∑ i, fromPairT (rightBasis i ⊗ₜ[ℂ] dualRightBasis i) := by
+lemma rightDualRightUnit_eq_RightHandedWeyl.basis_DualRightHandedWeyl.basis : δR =
+    ∑ i, fromPairT (RightHandedWeyl.basis i ⊗ₜ[ℂ] DualRightHandedWeyl.basis i) := by
   rw [rightDualRightUnit_eq_fromPairT, rightDualRightUnitVal_expand_tmul]
   rfl
```
Comment (nateabr) [inline Physlib/Relativity/Tensors/ComplexTensor/Units/Basic.lean:202]: Same issue as my prior comment.

**Review by nateabr — COMMENTED** [review]
Hi I went through this, very very minor comments but apart from that looks great.

File: Physlib/Relativity/Tensors/ComplexTensor/Units/Basic.lean (hunk 2 above)
Comment (jstoobysmith) [reply Physlib/Relativity/Tensors/ComplexTensor/Units/Basic.lean:202]: Ugh - good spot! yes this was unintentional, and was down to over use of ctrl-f. 

(Btw would help if you could put a awaiting-author label on these PRs after you sent a message, I get too many notifications from GitHub that it is hard to spot the important ones)

**Comment by jstoobysmith** [comment]
awaiting-author

**Comment by jstoobysmith** [comment]
-awaiting-author 

@nateabr Fixed these naming errors I believe

**Comment by nateabr** [comment]
Amazing, I was not able to see any other issues with this, will tag it for another maintainer to have another look :)

**Comment by nateabr** [comment]
sorryy, the linters failed :(

awaiting-author

**Comment by jstoobysmith** [comment]
-awaiting-author 

@nateabr hopefully fixed, merged with master and then fixed errors.

**Review by zhikaip — APPROVED** [review]
My concern would be same as @nateabr 's , having LeftHandedWeyl be it's own namespace might led to confusion (I.e. if someone just opens LeftHandedWeyl and RightHandedWeyl and the dual ones then everything just becomes basis)

But if this allows simplification elsewhere and you think it's a good compromise maybe it's worth it, just making sure you've thought this through.

**Comment by jstoobysmith** [comment]
Yeah, I agree this is something that needs to be considered. Though,  I think this is a better compromise than having names like `leftBasis` etc. which I think just get confusing.
